### PR TITLE
feat(ErdosProblems): 1192

### PR DESCRIPTION
**Pull request by danielchin**
Formalizes Erdos Problem 1192: https://www.erdosproblems.com/1192

Assisted by Gemini/Antigravity

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1192.lean [hunk 1]
```diff
@@ -0,0 +1,76 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 1192
+
+*References:*
+- [erdosproblems.com/1192](https://www.erdosproblems.com/1192)
+- [Ru90] Ruzsa, Imre Z., A just basis. Monatsh. Math. (1990), 145--151.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1192.lean:24]:
```suggestion
- [Ru90] Ruzsa, Imre Z., A just basis. Monatsh. Math. (1990), 145--151.
- [Er80] Erdős, Paul, A survey of problems in combinatorial number theory.
  Ann. Discrete Math. 6 (1980), 89--115.

```

**Review by mo271 — APPROVED** [review]
Thanks, lgtm!

One thing potentially missing are good tests, potentially something like those:
 
```lean
/-- The empty sum ($r = 0$) gives exactly one representation of $0$: the empty tuple. -/
@[category test, AMS 5 11]
theorem f_r_zero_zero (A : Set ℕ) : f_r A 0 0 = 1 := by
  sorry

/-- With an empty set, there are no valid $r$-tuples for $r \geq 1$. -/
@[category test, AMS 5 11]
theorem f_r_empty (r n : ℕ) : f_r ∅ (r + 1) n = 0 := by
  sorry

/-- For $r = 1$, $f_1(\{n\}, n) = 1$: the only $1$-tuple from $\{n\}$ summing to $n$ is $(n)$. -/
@[category test, AMS 5 11]
theorem f_r_singleton_self (n : ℕ) : f_r {n} 1 n = 1 := by
  sorry

/-- $f_1(\{0\}, 1) = 0$: can't represent $1$ with a single element from $\{0\}$. -/
@[category test, AMS 5 11]
theorem f_r_no_rep : f_r {0} 1 1 = 0 := by
  sorry
```

But I consider this optional

File: FormalConjectures/ErdosProblems/1192.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1192.lean:24]: Done.

**Comment by danielchin** [comment]
Added tests and filled in the sorries for them!

**Review by mo271 — APPROVED** [review]
great thanks!
